US03988510
Preparation of (2-Butenyl)(2-Methyl-3-Furyl)Sulfide
Into a 50 ml round bottom 1 neck flask equipped with nitrogen inlet tube, Y tube, reflux condenser, magnetic stirrer, and cold water bath is placed a solution containing 0.54 g of sodium methylate (0.01 moles) in 6 ml of anhydrous methanol. 1.14 g (0.01 moles) of 2-methyl-3-furan thiol in 6 ml of anhydrous methanol is then added to the sodium methylate solution. The reaction mass is stirred for a period of 10 minutes, with cooling, maintaining the temperature thereof between 24° and 30° C. 0.91 g (0.01 moles) of a mixture of 80% 1-chloro-2-butene and 20% 3-chloro-1-butene dissolved in 2 ml of anhydrous methanol is then added over a 4 minute period warming to 33° C. The reaction mass is allowed to cool to 23° C and remains at that temperature, with stirring, for a period of 2.5 hours, at which time it is concentrated to 7 ml on a rotary evaporator using water aspirator vacuum. 20 ml water is then added and the reaction mass is neutralized to a pH of 5 - 6 using 4% hydrochloric acid. The reaction mass is extracted with three 10 ml portions of n-hexane. The hexane extracts are combined, washed with 2 ml saturated sodium chloride solution, dried with anhydrous sodium sulfate and concentrated using a rotary evaporator to yield 1.24 g of a yellow oil.

reactant | sodium methylate | 0.01 moles, 0.54 g | C[O-].[Na+]
reactant | 2-methyl-3-furan thiol | 0.01 moles, 1.14 g | CC=1OC=CC1S | C5H6OS
reactant | 1-chloro-2-butene | ClCC=CC | C4H7Cl
reactant | 3-chloro-1-butene | ClC(C=C)C | C4H7Cl
solvent | methanol | 6 ml | CO | CH4O
solvent | methanol | 6 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | (2-Butenyl)(2-Methyl-3-Furyl)Sulfide | 1.24 g | C(C=CC)SC1=C(OC=C1)C | C9H12OS
